US08293735B2
To a mixture of tetrahydro-4H-pyran-4-one (500 mg, 5.00 mmol) and 1-Boc-piperazine (930 mg, 5.00 mmol) in methanol (10 mL) at 0° C. was added dropwise a solution of potassium cyanide (325 mg, 5.00 mmol) in water (1 mL). The mixture was warmed to room temperature and stirred overnight. The mixture was partitioned between ethyl acetate and water. The combined organic layers were washed with brine, separated and dried (MgSO4) to yield a 1:1 mixture of 4-(4-cyano-tetrahydro-pyran-4-yl)-piperazine-1-carboxylic acid tert-butyl ester and unreacted starting material (1.15 g). The crude mixture was dissolved in methanol (10 mL) and 1M sodium hydroxide solution (5 mL, 5.00 mmol) was added followed by the dropwise addition of hydrogen peroxide, (30 wt % solution in water; 2.5 mL) The mixture was stirred at room temperature overnight. The mixture was evaporated in vacuo and the crude product was purified by column chromatography to yield 4-(4-carbamoyl-tetrahydro-pyran-4-yl)-piperazine-1-carboxylic acid tert-butyl ester (307 mg). Removal of the Boc-protecting group using 2.0 M HCl in diethyl ether in dichloromethane gave the di-hydrochloride salt of the title compound as a pale solid (260 mg).

reactant | tetrahydro-4H-pyran-4-one | 5.00 mmol, 500 mg | O1CCC(CC1)=O | C5H8O2
reactant | 1-Boc-piperazine | 5.00 mmol, 930 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | potassium cyanide | 5.00 mmol, 325 mg | [C-]#N.[K+]
reactant | 4-(4-cyano-tetrahydro-pyran-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1(CCOCC1)C#N | C15H25N3O3
reactant | sodium hydroxide | 5.00 mmol, 1M, 5 mL | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 4-(4-carbamoyl-tetrahydro-pyran-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 307 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1(CCOCC1)C(N)=O | C15H27N3O4
